reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([O:2]/[C:3](=[C:4](/[C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])[H:11])([H:8])([H:9])[H:10].[H:12][H:13]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],73.3016819546187
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[N:2](=[C:3]=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12],87.9731407942461
[O:1]([c:2]1[n:3]([H:9])[c:4]([H:8])[n:5][n:6]1)[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],53.03388640326499
[O:1]([C:2](=[C:3]=[C:4]([C:5](=[O:6])[H:10])[H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],74.99365724018932
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]1[C:3]([H:10])([H:12])[O:6][C:5]([H:11])([H:15])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9],87.06666626059479
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:4](=[C:5]([C:6]#[C:7][H:14])[H:12])([H:10])[H:11].[O:1](/[C:2](=[N:3]/[H:9])[H:8])[H:13],57.6969590634266
[C:1]([C:2](=[N:3][O:4][H:9])[C:5]([H:10])([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]=[O:4])([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],80.04852752626729
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:4](=[C:5]([H:11])[H:12])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8].[O:6]([H:7])[H:13],69.7559409709565
[C:1](/[C:2](=[C:3](/[O:4][H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],52.049992047318796
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[C:2](=[O+:3][C:4](=[C:5]([O-:6])[H:14])[H:12])([H:10])[H:11],88.8458526912227
[O:1]=[C:2]([C:3]#[C:4][C:5]([C:6]([O:7][H:8])([H:10])[H:13])([H:11])[H:12])[H:9]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],76.28024318207011
[C:1]([C@@:2]([O:3][H:12])(/[C:4](=[C:5](\[C:6](=[O:7])[H:17])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10].[H:13][H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],56.77159005842311
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](/[C@:4]([C:5]([H:16])([H:17])[H:18])([C:6](=[O:7])[H:19])[H:14])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][H:15],103.96980494238001
[C:1]([C:2](=[C:6]=[C:7]([N:5]=[C:4]=[C:3]([H:12])[H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],30.949707850342495
[C:1]([N:2]([C-:3]=[O+:4][C:6]([N:5]([H:11])[H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],35.989708020388605
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1]1([H:7])([H:8])[O+:2]=[C-:3][C:4]1([H:9])[H:10].[O:5]=[C:6]([H:11])[H:12],77.1650896660423
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]=[O+:3][C@:5]1([H:12])[C:4]([H:10])([H:11])[O:6]1)([H:7])([H:8])[H:9],114.418514043029
[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8]>>[C:1]([O:5][H:13])([H:6])([H:7])[H:8].[C:2]1([H:9])=[C:4]([H:12])[C:3]1([H:10])[H:11],121.70280380657302
[C:1]([C@:2]1([C:6]#[C:7][H:15])[C:3]([H:12])([H:13])[C@@:4]1([C:5][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],34.38691531452578
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[N:3])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:11])[H:14].[O:4]=[C:5]([H:12])[H:13],79.7610337658827
[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:6][C:5](=[C:4]([H:14])[H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],95.5739834788117
[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1=[C:5]=[C:6]([H:12])[C:4]([H:10])([H:11])[C:3]1([H:8])[H:9])[H:7],63.9079625239089
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:2](=[O:3])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],92.8927400568268
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([N+:3]([C-:4]([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],87.2736441402892
[O:1](/[C:2](=[C:3](\[C:4]([C:5]#[N:6])([H:10])[H:11])[H:8])[H:7])[H:9]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],61.829069255893714
